US06320050B1
A solution of 6-[2-(3-chloro-phenyl)-3-cyclopentyl-propionylamino]-nicotinic acid methyl ester (146.9 mg, 0.38 mmol) in tetrahydrofuran/water/methanol (10 mL, 3:1:1) at 25° C. was treated with a 2N aqueous sodium hydroxide solution (0.4 mL, 0.80 mmol). The reaction mixture was stirred at 25° C. for 4 d. At this time, the reaction was concentrated in vacuo. The residue was diluted with water (50 mL) and extracted with diethyl ether (1×50 mL). The aqueous layer was acidified to pH=1 by the dropwise addition of a 3N aqueous hydrochloric acid solution. This solution was extracted with a solution of methylene chloride/methanol (3:1, 3×75 mL). The organics were dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting solid was triturated with diethyl ether/hexanes (2:1) to afford 6-[2-(3-chloro-phenyl)-3-cyclopentyl-propionylamino]nicotinic acid (63.6 mg, 44.4%) as a white solid: mp 251-255° C.; EI-HRMS m/e calcd for C20H21ClN2O3 (M+) 372.1240, found 372.1250.

reactant | 6-[2-(3-chloro-phenyl)-3-cyclopentyl-propionylamino]-nicotinic acid methyl ester | 0.38 mmol, 146.9 mg | COC(C1=CN=C(C=C1)NC(C(CC1CCCC1)C1=CC(=CC=C1)Cl)=O)=O | C21H23ClN2O3
reactant | sodium hydroxide | 0.80 mmol, 2N, 0.4 mL | [OH-].[Na+]
solvent | tetrahydrofuran water methanol | 10 mL | O1CCCC1.O.CO
product | 6-[2-(3-chloro-phenyl)-3-cyclopentyl-propionylamino]nicotinic acid | 63.6 mg, 44.4% | ClC=1C=C(C=CC1)C(C(=O)NC1=NC=C(C(=O)O)C=C1)CC1CCCC1 | C20H21ClN2O3
